US04794188
3-(2-Quinolinylmethoxy)phenylacetic acid
A mixture of 2-chloromethyl quinolin (2.3 g, 13.3 mmol), 3-hydroxyphenyl acetate (2.2 g, 13.3 mmol), excess powdered potassium carbonate (10 g) and a catalytic amount of potassium iodide (0.1 g) in dry acetone (150 ml) was refluxed overnight (18 hr.). The reaction mixture was filtered, and the filtrate was concentrated, taken up in ethyl acetate, and the organic extract was washed with a 5% NaOH solution and brine. After drying over MgSO4, all volatiles were removed from the organic extract, and the crude oil was chromatographed on silica gel (20% ethylacetate in hexanes) to obtain the methyl ester of the desired product (3.0 g).

reactant | 2-chloromethyl quinolin | 13.3 mmol, 2.3 g | ClCC1=NC2=CC=CC=C2C=C1 | C10H8ClN
reactant | 3-hydroxyphenyl acetate | 13.3 mmol, 2.2 g | C(C)(=O)OC1=CC(=CC=C1)O | C8H8O3
reactant | potassium carbonate | 10 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetone | 150 ml | CC(=O)C | C3H6O
catalyst | potassium iodide | 0.1 g | [I-].[K+]
product | 3-(2-Quinolinylmethoxy)phenylacetic acid | 3.0 g | N1=C(C=CC2=CC=CC=C12)COC=1C=C(C=CC1)CC(=O)O | C18H15NO3
